US07244730B2
(Step 3) 1-{3-(tert-Butyl)-5-[(3R,4R)-3-hydroxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone
Diisopropylethylamine (2.3 ml, 13 mmol) was added to a solution of the 1-{3-(tert-butyl)-5-[(3R,4R)-3,4-dihydroxytetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone (1.32 g, 4.29 mmol) in methylene chloride (10 ml) while cooling on ice, and then MOMCl (0.49 ml, 6.5 mmol) was added dropwise and the mixture was stirred at the same temperature for 10 minutes and then at room temperature for 2.5 hours. After completion of the reaction, it was diluted with water and extraction was performed with ethyl acetate. After washing with brine and drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (496 mg, 33%) as a light yellow oil.

reactant | Diisopropylethylamine | 13 mmol, 2.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-{3-(tert-butyl)-5-[(3R,4R)-3,4-dihydroxytetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone | 4.29 mmol, 1.32 g | C(C)(C)(C)C=1C=C(C=C(C1OC)N1C[C@H]([C@@H](C1)O)O)C(C)=O | C17H25NO4
reactant | MOMCl | 6.5 mmol, 0.49 ml | C(OC)Cl | C2H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-{3-(tert-Butyl)-5-[(3R,4R)-3-hydroxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone | 496 mg, 33% | C(C)(C)(C)C=1C=C(C=C(C1OC)N1C[C@H]([C@@H](C1)OCOC)O)C(C)=O | C19H29NO5
